US08669234B2
[2-Oxo-1-phenyl-2-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidin-1-yl)-ethyl]-carbamic acid methyl ester:
2-{5-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (530 mg, 1.21 mmol) was dissolved in DCM (4 mL) and treated with HCl (4M in dioxane, 1 mL, 4 mmol). The reaction mixture was stirred at RT for 19 h then the solid was filtered off and rinsed with DCM. After being thoroughly dried (461 mg, 92%), a portion of this solid (200 mg, 0.485 mmol) was combined with Methoxycarbonylamino-phenyl-acetic acid (122 mg, 0.582 mmol) and HATU (221 mg, 0.582 mmol) were suspended in DCM (5 mL) and K3PO4 (309 mg, 1.455 mmol) was added. After stirring 24 h, the reaction mixture was diluted with EtOAc and washed with 1M LiOH and brine. The organic layer was dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (75% to 100% EtOAc) to provide the title compound (204 mg , 79%).

reactant | 2-{5-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.21 mmol, 530 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O4
reactant | HCl | 4 mmol, 4M, 1 mL | Cl | ClH
reactant | Methoxycarbonylamino-phenyl-acetic acid | 0.582 mmol, 122 mg | COC(=O)NC(C(=O)O)C1=CC=CC=C1 | C10H11NO4
reactant | HATU | 0.582 mmol, 221 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | K3PO4 | 1.455 mmol, 309 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [2-Oxo-1-phenyl-2-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidin-1-yl)-ethyl]-carbamic acid methyl ester | 204 mg, 79% | COC(NC(C(N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)=O | C29H35BN4O5
